US07629294B2
7.6 g (0.191 mol) of 60% strength sodium hydride in paraffin oil were initially charged in 300 ml of dioxane. At from 55° C. to 60° C., 22.9 g (0.173 mol) of diethyl malonate were added dropwise, and the mixture was stirred at 50° C. for 1-2 hours. 9.9-g (0.069 mol) of copper(1) bromide were added. At 80° C., 15 g (0.069 mol) of 3-chloro-4-bromobenzonitrile were then added dropwise, and the mixture was subsequently stirred at 100° C. for 14 hours. The reaction mixture was then cooled and acidified by dropwise addition of concentrated hydrochloric acid at from 15° C. to 20° C. Water was added, the mixture was extracted with dichloromethane, the organic phase was dried over sodium sulphate and the solvent was removed. The residue was distilled at 1 mbar, giving 17.5 g of dimethyl(2-chloro-4-cyanophenyl)malonate.

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl malonate | 0.173 mol, 22.9 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-chloro-4-bromobenzonitrile | 0.069 mol, 15 g | ClC=1C=C(C#N)C=CC1Br | C7H3BrClN
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
catalyst | copper(1) bromide | [Cu]Br
solvent | Water | O | H2O
product | dimethyl(2-chloro-4-cyanophenyl)malonate | 17.5 g | COC(C(C(=O)OC)C1=C(C=C(C=C1)C#N)Cl)=O | C12H10ClNO4
